US04788195
3-Dimethylamino-1-(3-indolyl)-2-propen-1-one
A mixture of 3.18 g of 3-acetylindole and 5.17 ml. (4.36 g) of tert-butoxybis(dimethylamino)methane was heated on a steam bath for 4 hours. The cooled reaction mixture was triturated with n-hexanes and gave a semi-solid. The solvent was removed in vacuo and the material was triturated with dichloromethane giving 3.08 g of the desired compound as a tan crystalline solid, mp 239°-245° C.

reactant | 3-acetylindole | 3.18 g | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
reactant | tert-butoxybis(dimethylamino)methane | 4.36 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 3-Dimethylamino-1-(3-indolyl)-2-propen-1-one | CN(C=CC(=O)C1=CNC2=CC=CC=C12)C | C13H14N2O
